US08372867B2
A solution of 3-[4-(bromomethyl)-3-nitrophenyl]-5-(3,5-dichlorophenyl)-5-(trifluoromethyl)-4,5-dihydroisoxazole (1.0 g) in tetrahydrofuran (10 mL) was added dropwise to a solution of 28% ammonia (aqueous solution, 5 mL) and tetrabutyl ammonium iodide (0.05 g) in tetrahydrofuran (10 mL) and methanol (20 mL) under ice cooling, and the mixture was then stirred for 10 hours at room temperature. The reaction solution was diluted with water, and then extracted with ethyl acetate, and the organic layer was dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure, and the residue was then purified by silica gel chromatography to yield 1-{4-[5-(3,5-dichlorophenyl)-5-(trifluoromethyl)-4,5-dihydroisoxazol-3-yl]-2-nitrophenyl}methanamine (0.8 g).

reactant | 3-[4-(bromomethyl)-3-nitrophenyl]-5-(3,5-dichlorophenyl)-5-(trifluoromethyl)-4,5-dihydroisoxazole | 1.0 g | BrCC1=C(C=C(C=C1)C1=NOC(C1)(C(F)(F)F)C1=CC(=CC(=C1)Cl)Cl)[N+](=O)[O-] | C17H10BrCl2F3N2O3
reactant | ammonia | 5 mL | N | H3N
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
catalyst | tetrabutyl ammonium iodide | 0.05 g | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | methanol | 20 mL | CO | CH4O
solvent | water | O | H2O
product | 1-{4-[5-(3,5-dichlorophenyl)-5-(trifluoromethyl)-4,5-dihydroisoxazol-3-yl]-2-nitrophenyl}methanamine | 0.8 g | ClC=1C=C(C=C(C1)Cl)C1(CC(=NO1)C1=CC(=C(C=C1)CN)[N+](=O)[O-])C(F)(F)F | C17H12Cl2F3N3O3
